US04198425
6-(p-Benzyloxyphenyl)-3,5-hexadien-2-one
A solution of 19.7 g of p-benzyloxycinnamaldehyde and 27.6 g of acetylmethylenetriphenylphosphorane in 190 ml of xylene was heated under reflux for 2 hours, the solvent was then evaporated and the residual crystals were recrystallized from benzene to give 18.3 g of the desired compound melting at 132°-133° C.

reactant | p-benzyloxycinnamaldehyde | 19.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=CC=O)C=C1 | C16H14O2
reactant | acetylmethylenetriphenylphosphorane | 27.6 g | C(C)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | xylene | 190 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-(p-Benzyloxyphenyl)-3,5-hexadien-2-one | 18.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC=CC(C)=O | C19H18O2
